US04587262
A mixture of triclosan (29.0 g.), triethylamine (15 ml.) and 2,2-dimethylglutaric anhydride (20 g.) was heated at 80° C. for 5 hours. A further quantity (2.0 g.) of anhydride and triethylamine (1 ml.) were added and heating continued for 24 hours. The mixture was cooled to ambient temperature, washed with 2M hydrochloric acid (100 ml.), then with water (3×80 ml.) and dried (MgSO4). The solution obtained was evaporated. The brown residual oil was dissolved in hot cyclohexane. The solution on cooling gave white crystals which were recrystallised from cyclohexane/petrol 60-80 to give 5-chloro-2-(2,4-dichlorophenoxy)phenyl 4-carboxy-2,2-dimethylbutyrate (C') (12.7 g.), m.p. 125°-128° C.

reactant | triclosan | 29.0 g | C1=CC(=C(C=C1Cl)O)OC=2C=CC(=CC2Cl)Cl | C12H7Cl3O2
reactant | 2,2-dimethylglutaric anhydride | 20 g | CC1(C(=O)OC(CC1)=O)C | C7H10O3
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 15 ml | C(C)N(CC)CC | C6H15N
product | 5-chloro-2-(2,4-dichlorophenoxy)phenyl 4-carboxy-2,2-dimethylbutyrate | C(=O)(O)CCC(C(=O)OC1=C(C=CC(=C1)Cl)OC1=C(C=C(C=C1)Cl)Cl)(C)C | C19H17Cl3O5
